US07432260B2
N-{5-[2-(4-Chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-(2-morpholin-4-yl-ethylamino)-propionamide [37].
By treatment of 3-bromo-N-{5-[2-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide with 2-morpholin-4-yl-ethylamine (or 3-amino-N-{5-[2-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide with 4-(2-chloro-ethyl)-morpholine. Anal. RP-HPLC: tR=11.5 min (10-70% MeCN, purity>97%). 1H-NMR (DMSO-D6) δ 1.52 (d, 2H, J=7.0 Hz, CH2), 2.48 (m, 2H, CH2), 2.52 (s, 3H, CH3), 3.05-3.11 (m, 4H, CH2), 3.25-3.28 (m, 6H, CH2), 4.08 (m, 2H, CH2), 7.13 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 7.29 (m, 2H, Ph-H), 7.82 (m, 2H, Ph-H), 8.51 (d, 1H, J=5.5 Hz, pyrimidinyl-H), 9.82 (brs, 1H, NH).

reactant | 3-bromo-N-{5-[2-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide | BrCCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)Cl | C17H15BrClN5OS
reactant | 2-morpholin-4-yl-ethylamine | N1(CCOCC1)CCN | C6H14N2O
reactant | 3-amino-N-{5-[2-(4-chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-propionamide | NCCC(=O)NC=1SC(=C(N1)C)C1=NC(=NC=C1)NC1=CC=C(C=C1)Cl | C17H17ClN6OS
reactant | 4-(2-chloro-ethyl)-morpholine | ClCCN1CCOCC1 | C6H12ClNO
solvent | MeCN | CC#N | C2H3N
product | N-{5-[2-(4-Chloro-phenylamino)-pyrimidin-4-yl]-4-methyl-thiazol-2-yl}-3-(2-morpholin-4-yl-ethylamino)-propionamide | ClC1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C(S1)NC(CCNCCN1CCOCC1)=O)C | C23H28ClN7O2S
